US06087357
A mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)piperazine (1.0 g), (E)-1,4-dichloro-2-butene (0.31 ml) and powdered potassium carbonate (0.4 g) in dry acetonitrile (10 ml) was heated at 50° C. After 4 hours, the reaction mixture was cooled and then filtered. The filtrate was concentrated under reduced pressure and the resulting residue was purified by column chromatography on silica gel using a mixture of toluene and ethyl acetate (4:1) to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[(E)-4-chloro-2-butenyl]piperazine (0.53 g) as an oil.

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)piperazine | 1.0 g | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C22H22F6N2O
reactant | (E)-1,4-dichloro-2-butene | 0.31 ml | ClC\C=C\CCl | C4H6Cl2
reactant | potassium carbonate | 0.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[(E)-4-chloro-2-butenyl]piperazine | 0.53 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)C\C=C\CCl)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C26H27ClF6N2O
